US04985583
1 ml of 30% H2O2 is added to 3.8 g of 4-pentyl-4'-heptyl-4'-ethylthiobicyclohexane in 25 ml of glacial acetic acid and the mixture is stirred at room temperature for 3 hours. After customary working up, 4-pentyl-4'-heptyl-4'-ethylsulfinylbicyclohexane is obtained.

reactant | H2O2 | 1 ml | OO | H2O2
reactant | 4-pentyl-4'-heptyl-4'-ethylthiobicyclohexane | 3.8 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)(SCC)CCCCCCC | C26H50S
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-pentyl-4'-heptyl-4'-ethylsulfinylbicyclohexane | C(CCCC)C1CCC(CC1)C1CCC(CC1)(S(=O)CC)CCCCCCC | C26H50OS
